US08440652B2
To a 0° C. solution of (1R,2R)-2-methylcyclopropanecarboxylic acid (2.0 g, 20.0 mmol) in anhydrous acetone (100 mL) was added triethylamine (2.87 mL, 20.6 mmol) and ethyl chloroformate (1.96 mL, 20.6 mL). The cold bath was removed and the reaction was allowed to warm to room temperature for 30 min before the addition of sodium azide (1.36 g, 21.00 mmol) in water (20 mL). The reaction was maintained at room temperature for 1 h, then diluted with DCM (300 mL) and water (200 mL). The layers were separated and the organic was washed with water (2×100 mL) and brine (100 mL) then dried over MgSO4 and concentrated to provide (1R,2R)-2-methylcyclopropanecarbonyl azide (1.8 g, 72% yield) which was used directly in the next reaction. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.47-1.58 (m, 1H), 1.35-1.42 (m, 1H), 1.28-1.34 (m, 1H), 1.14 (d, J=6.0 Hz, 3H), 0.79-0.87 (m, 1H).

reactant | (1R,2R)-2-methylcyclopropanecarboxylic acid | 20.0 mmol, 2.0 g | C[C@H]1[C@@H](C1)C(=O)O | C5H8O2
reactant | triethylamine | 20.6 mmol, 2.87 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.96 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 21.00 mmol, 1.36 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | water | 20 mL | O | H2O
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | (1R,2R)-2-methylcyclopropanecarbonyl azide | 1.8 g, 72% yield | C[C@H]1[C@@H](C1)C(=O)N=[N+]=[N-] | C5H7N3O
